US07888366B2
Cyclooctylamine (1.4 mL; 10 mmol) was added dropwise to a solution of 2,6-difluorobenzonitrile (1.39 g, 10 mmol) in DMF (6 ml) at 0° C. The reaction mixture was stirred at room temperature for 4.5 hours. The reaction mixture was added to vigorously stirred ice water (40 ml) and extracted with ethyl acetate. Solvent was removed to yield 1.63 grams of 2-cyclooctylamino-6-fluorobenzonitrile.

reactant | Cyclooctylamine | 10 mmol, 1.4 mL | C1(CCCCCCC1)N | C8H17N
reactant | 2,6-difluorobenzonitrile | 10 mmol, 1.39 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-cyclooctylamino-6-fluorobenzonitrile | 1.63 grams | C1(CCCCCCC1)NC1=C(C#N)C(=CC=C1)F | C15H19FN2
